US07410986B2
To a stirred solution of 2-amino-4-(4-chloro-3-nitrophenyl)-6-{2-[(4-methoxybenzyl)oxy]phenyl}-nicotinonitrile (0.850 g, 1.746 mmol) in DMF (5 mL) including triethylamine (1.2 mL) was added dimethylamine hydrochloride (0.996 g, 12.220 mmol), and the mixture was stirred at 70° C. for 3 hrs. The reaction mixture was quenched with water and extracted with ethyl acetate. The organic phase was washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was suspended in ethanol. The resulting solid was collected by filtration, washed with ethanol, and dried under reduced pressure to give 2-amino-4-[4-(dimethylamino)-3-nitrophenyl]-6-{2-[(4-methoxybenzyl)-oxy]phenyl}nicotinonitrile as an orange oil (0.820 g, yield 95%).

reactant | 2-amino-4-(4-chloro-3-nitrophenyl)-6-{2-[(4-methoxybenzyl)oxy]phenyl}-nicotinonitrile | 1.746 mmol, 0.850 g | NC1=C(C#N)C(=CC(=N1)C1=C(C=CC=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C26H19ClN4O4
reactant | triethylamine | 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylamine hydrochloride | 12.220 mmol, 0.996 g | Cl.CNC
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-amino-4-[4-(dimethylamino)-3-nitrophenyl]-6-{2-[(4-methoxybenzyl)-oxy]phenyl}nicotinonitrile | 0.820 g, yield 95% | NC1=C(C#N)C(=CC(=N1)C1=C(C=CC=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)N(C)C)[N+](=O)[O-] | C28H25N5O4
